US08912188B2
To a solution of methyl 3-(azepan-1-yl)-2-oxo-1,2,4a,8a-tetrahydroquinoxaline-6-carboxylate (150.0 mg, 0.50 mmol) in dichloromethane (50 mL) was added pyridine (210 mg, 2.64 mmol) and Tf2O (375 mg, 1.32 mmol) with stirring overnight under atmosphere of nitrogen at room temperature. The reaction mixture was then quenched with water (50 mL), extracted with dichloromethane (3×15 mL), the organic layers combined and dried over anhydrous magnesium sulfate, concentrated in vacuo to afford methyl 3-(azepan-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate as red oil (250 mg, crude), which was used directly in the next step.

reactant | methyl 3-(azepan-1-yl)-2-oxo-1,2,4a,8a-tetrahydroquinoxaline-6-carboxylate | 0.50 mmol, 150.0 mg | N1(CCCCCC1)C=1C(NC2C=CC(=CC2N1)C(=O)OC)=O | C16H21N3O3
reactant | pyridine | 2.64 mmol, 210 mg | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | 1.32 mmol, 375 mg | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | methyl 3-(azepan-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | N1(CCCCCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C17H18F3N3O5S
